US09034440B2
Into a 500 ml-volume three-neck flask, 46.1 g (0.36 mol) of glycidyl acrylate, 15.6 g (0.12 mol) of 2-hydroxyethyl methacrylate, 19.5 g (0.12 mol) of p-acetoxystyrene and 300 ml of methyl isobutyl ketone were charged. A catalytic amount of 2,2′-azobis(methyl 2-methylpropionate) was added thereto as a radical polymerization initiator, and polymerization was allowed to proceed at 80° C. for 6 hours in a nitrogen stream. The reaction solution was cooled and then poured in a large amount of heptane to precipitate a polymer. The crystal was collected by filtration and dissolved in diethylene glycol dimethyl ether, and heptane and methyl isobutyl ketone contained in the solution were removed by distillation under reduced pressure to obtain Polymer A2-2 (glycidyl acrylate/2-hydroxyethyl methacrylate/p-acetoxystyrene) as a diethylene glycol dimethyl ether solution.

reactant | glycidyl acrylate | 0.36 mol, 46.1 g | C(C=C)(=O)OCC1CO1 | C6H8O3
reactant | 2-hydroxyethyl methacrylate | 0.12 mol, 15.6 g | C(C(=C)C)(=O)OCCO | C6H10O3
reactant | p-acetoxystyrene | 0.12 mol, 19.5 g | C(C)(=O)OC1=CC=C(C=C)C=C1 | C10H10O2
reactant | 2,2′-azobis(methyl 2-methylpropionate) | N(=NC(C(=O)[O-])(CC)C)C(C(=O)[O-])(CC)C
solvent | heptane | CCCCCCC | C7H16
solvent | methyl isobutyl ketone | 300 ml | C(C(C)C)C(=O)C | C6H12O
product | glycidyl acrylate 2-hydroxyethyl methacrylate p-acetoxystyrene | C(C=C)(=O)OCC1CO1.C(C(=C)C)(=O)OCCO.C(C)(=O)OC1=CC=C(C=C)C=C1 | InChI=1S/C10H10O2.C6H8O3.C6H10O3/c1-3-9-4-6-10(7-5-9)12-8(2)11;1-2-6(7)9-4-5-3-8-5;1-5(2)6(8)9-4-3-7/h3-7H,1H2,2H3;2,5H,1,3-4H2;7H,1,3-4H2,2H3
